US07749999B2
2,6-Bis(p-tolylamino)-3-nitro-pyrimidine (X=N).
A mixture of 2,6-dichloro-3-nitropyrimidine (194 mg, 1 mmol), p-tolylamine (236 mg, 2.2 mmol) and DIEA (524 μL, 3 mmol) in 3 mL dioxane was stirred in microwave at 200° C. for 20 min. After removal of the solvent, the residue was dissolved in chloroform and subjected to silica gel column purification to give 319 mg (yield: 95%) title compound. Calculated mass=335. Observed mass=336.

reactant | 2,6-dichloro-3-nitropyrimidine | 1 mmol, 194 mg | ClC1N=C(C=CN1[N+](=O)[O-])Cl | C4H3Cl2N3O2
reactant | p-tolylamine | 2.2 mmol, 236 mg | CC=1C=CC(=CC1)N | C7H9N
reactant | DIEA | 3 mmol, 524 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2,6-Bis(p-tolylamino)-3-nitro-pyrimidine | 319 mg, yield: 95% | C1(=CC=C(C=C1)NC1N=C(C=CN1[N+](=O)[O-])NC1=CC=C(C=C1)C)C | C18H19N5O2
